datasets/10k__Tet_Int.csv
SMILES Labelled
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(C)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH]([H])[S]1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])C)C)CCCCCC>>CCN([C:20]1(OC(C([O:21]1)C)C)[O-:10])CCCCCC 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C([H])C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[CH:20]([OH:10])([I:21])CCCCCC>>[CH:20](=[OH+:10])CCCCCC.[I-:21] 10=20;20,21=21"
"[O-:10]C(CCC)/C([H])=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)CCCCCC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(O)C(C)C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C(C)C(O)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(C)C(C)/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[OH:21][CH:20]2(C)C(C3=C(C([OH+:10]2)C)C=CC=C3)[H]>>[OH:10]C(C1=C(C([CH:20](C)=[OH+:21])[H])C=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])O[H])CCCCCC)CC>>C(C(O[C:20](=[O:10])O[H])CC)([O-:21])CCCCCC 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC)CC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H]N([C:20]([O-:10])(O[H])[O:21][H])CCCCCC>>[H]N([C:20](=[O:10])O[H])CCCCCC.[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
